US03950333
Reaction of 3-aminopyrazole with β-azidopropionyl chloride by the procedure of Example 40 gives 3-(3-aminopropylamino)pyrazole.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | β-azidopropionyl chloride | N(=[N+]=[N-])CCC(=O)Cl | C3H4ClN3O
product | 3-(3-aminopropylamino)pyrazole | NCCCNC1=NNC=C1 | C6H12N4
